US04032676
N,N'-di-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-arginine
The manufacture took place by reductive amination of D-glucose and L-(+)-arginine in the molar ratio 2:1 using Raney nickel or palladium/activated carbon (10%) as a catalyst in the temperature range from 50° to 70° C. As a reaction product a light-yellow resin was obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-(+)-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
catalyst | Raney nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
product | N,N'-di-(2,3,4,5,6-pentahydroxy-hexyl)-L-(+)-arginine | OC(CN[C@@H](CCCN(C(N)=N)CC(C(C(C(CO)O)O)O)O)C(=O)O)C(C(C(CO)O)O)O | C18H38N4O12
